US04254116
5,5-Dimethyl-10-Methoxy-8-(3-Methyl-2-Octyl)-5H-[1]-Benzopyrano[3,4-d]Pyridine
Methyl iodide (5.11 g., 0.036 mole) was added dropwise to a stirred solution of 10.59 g. (0.03 mole) of 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano [3,4-d]pyridine in 300 ml. of N,N-dimethylformamide containing 1.78 g. (0.033 mole) of sodium methoxide. The mixture was stirred at room temperature for 18 hours and 300 ml. of water was added and extracted with petroleum ether (30°-60°). The combined petroleum ether extracts were washed with water, dried with anhydrous sodium sulfate and evaporated in vacuo. The residue was purified by chromatography on a Florisil® column with chloroform or by distillation under reduced pressure to give the pure product.

reactant | Methyl iodide | 0.036 mole, 5.11 g | CI | CH3I
reactant | 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano [3,4-d]pyridine | 0.03 mole | CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)O)C=2C1=CC=NC2)C | C23H31NO2
reactant | N,N-dimethylformamide | 1.78 g | CN(C=O)C | C3H7NO
reactant | sodium methoxide | 0.033 mole | C[O-].[Na+]
solvent | water | O | H2O
product | 5,5-Dimethyl-10-Methoxy-8-(3-Methyl-2-Octyl)-5H-[1]-Benzopyrano[3,4-d]Pyridine | CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)OC)C=2C1=CC=NC2)C | C24H33NO2
